US05811432
C. 3-(2-Thenoyl)-5-azaoxindole
Pellets of sodium metal (1.15 g, 50 mmol) were added to dry ethanol (30 mL) in a dry round-bottomed flask. When dissolution of the sodium was complete, solid 5-azaoxindole (1.40 mg, 10.4 mmol) was added followed by ethyl 2-thiophenecarboxylate (2.7 mL, 20.1 mmol). The mixture was heated under nitrogen at reflux for 1 hour. At this point, the volume of the mixture was reduced 50% by distillation of ethanol at atmospheric pressure. The mixture was cooled and poured into ice/water. The resulting solution was filtered to remove a small amount of insoluble material which was washed well with water. Upon acidification of the filtrate to pH 7 with 6N HCl solution, the product precipitated. This was collected by filtration, washed with water and dried in the air to yield the title compound as a yellow/brown solid (2.0 g, 83%).

reactant | sodium | 50 mmol, 1.15 g | [Na] | Na
reactant | 5-azaoxindole | 10.4 mmol, 1.40 mg | N1C(CC2=CN=CC=C12)=O | C7H6N2O
reactant | ethyl 2-thiophenecarboxylate | 20.1 mmol, 2.7 mL | S1C(=CC=C1)C(=O)OCC | C7H8O2S
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(2-Thenoyl)-5-azaoxindole | 2.0 g, 83% | C1(=CC=CS1)C(=O)C1C(NC2=CC=NC=C12)=O | C12H8N2O2S
